US07153863B2
To a cold (−78° C.) solution of N-cyclopentyl-4(2-isobutylpyrazolo[1,5-a]pyridin-3-yl)pyrimidin-2-amine (750 mg, 2.23 mmol) in tetrahydrofuran (25 mL) was added lithium diisopropylamide (LDA) (11.18 mL of a 0.6 M stock solution was prepared from 18.75 mL of 1.6 M butyllithium and 4.20 mL of diisopropylamine in 27 mL of tetrahydrofuran, 6.71 mmol) dropwise. The reusitant solution was stirred at −78° C. for 15 minutes. Dimethyldisulfide (1.0 mL, 11.15 mmol) was added rapidly and the mixture was stirred for 1 hour. Water and ether were added and the layers separated. The organic layer was washed with brine. The aqueous layer was extracted with ether and the combined organics were dried over magnesium sulfate. Filtration and concentration followed flash chromatography on silica gel (2:1 hexane-ether) provided N-cyclopentyl-4-[2-isobutyl-7-(methylthio)pyrazolo[1,5-a]pyridin-3-yl]pyrimidin-2-amine. (712 mg, 84%) as a yellow solid. 1H NMR (CDCl3) δ 8.25 (d, 1H), 8.07 (d, 1H), 7.25 (t, 1H), 6.75 (d, 1H), 6.61 (d, 1H), 5.04 (d, 1H), 4.37 (m, 1H), 3.05 (d, 2H), 2.61 (s, 3H), 2.26–2.05 (m, 3H), 1.79–1.50 (m, 6H), 0.97 (d, 6H); MS m/z 382 (M+1).

reactant | N-cyclopentyl-4(2-isobutylpyrazolo[1,5-a]pyridin-3-yl)pyrimidin-2-amine | 2.23 mmol, 750 mg | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)CC(C)C | C20H25N5
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | 1.6 M, 18.75 mL | C(CCC)[Li]
reactant | diisopropylamine | 4.20 mL | C(C)(C)NC(C)C | C6H15N
reactant | Dimethyldisulfide | 11.15 mmol, 1.0 mL | CSSC | C2H6S2
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 27 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
product | N-cyclopentyl-4-[2-isobutyl-7-(methylthio)pyrazolo[1,5-a]pyridin-3-yl]pyrimidin-2-amine | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2SC)CC(C)C | C21H27N5S
